US07851473B2
(2) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-[4-(1H-pyrazol-1-yl)phenyl]piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl [4-(1H-pyrazol-1-yl)phenyl]carbamate (200 mg, 0.598 mmol), 1-[3-(2-fluorophenyl)-1,2,4-thiadiazol-5-yl]piperazine (147 mg, 0.598 mmol), diisopropylethylamine (0.208 ml, 1.20 mmol) and dimethyl sulfoxide (4 ml) was stirred at 70° C. for 24 hours, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate) to give the desired product as a solid. The solid was recrystallized from ethyl acetate to give 63.7 mg (24.7%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl [4-(1H-pyrazol-1-yl)phenyl]carbamate | 0.598 mmol, 200 mg | N1(N=CC=C1)C1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O | C12H10Cl3N3O2
reactant | 1-[3-(2-fluorophenyl)-1,2,4-thiadiazol-5-yl]piperazine | 0.598 mmol, 147 mg | FC1=C(C=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H13FN4S
reactant | diisopropylethylamine | 1.20 mmol, 0.208 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-[4-(1H-pyrazol-1-yl)phenyl]piperazine-1-carboxamide | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)N1N=CC=C1 | C22H21N7OS
